### PR TITLE
feat: improvements to the simp set for rbInv

### PR DESCRIPTION
**Pull request by Daniel1854**

### CODE REVIEW

File: Filrb/Internal/Invariants/RBInv.lean [hunk 1]
```diff
@@ -13,6 +13,34 @@ namespace Raw
 
 variable [Preorder α] [Ord α] [LawfulOrd α]
 
+-- TODO: Find a place for these
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem paintColor_nil : paintColor c (.nil : Raw α) = Raw.nil := by
+  simp [paintColor]
+
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean:21]: Is it sensible to have a theorem about `paintColor` on node?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 2]
```diff
@@ -13,6 +13,34 @@ namespace Raw
...
+omit [Preorder α] [LawfulOrd α] in
+@[simp]
+theorem del_nil {x : α} : del x Raw.nil = Raw.nil := by
+  simp [del]
+
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem rootColor_nil : (Raw.nil : Raw α).rootColor = Color.black := by
+  simp [rootColor]
+
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean:36]: rootColor on node?

File: Filrb/Internal/Invariants/RBInv.lean [hunk 3]
```diff
@@ -13,6 +13,34 @@ namespace Raw
...
+@[simp]
+theorem red_of_not_isBlack (h : (node l d c r).isBlack = false) : c = Color.red := by
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: Should probably be
```
(node l d c r).isBlack = (c == .black)
```

File: Filrb/Internal/Invariants/RBInv.lean [hunk 4]
```diff
@@ -63,28 +91,34 @@ theorem childInv_black_node {l r : Raw α} :
   · rintro ⟨_, _⟩
     apply ChildInv.black <;> assumption
 
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem childInv_paintColorBlack_node {l r : Raw α} :
+    ChildInv ((Raw.node l d c r).paintColor .black) ↔ ChildInv l ∧ ChildInv r := by
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: If we have a theorem about `paintColor` on node this statement will no longer be in simp normal form.

File: Filrb/Internal/Invariants/RBInv.lean [hunk 5]
```diff
@@ -94,6 +128,19 @@ def blackHeightLeft (t : Raw α) : Nat :=
...
 
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem blackHeight_nil : (.nil : Raw α).blackHeightLeft = 0 := by
+  simp [blackHeightLeft]
+
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[simp]
+theorem blackHeight_node {l r : Raw α} :
+  (node l d c r).blackHeightLeft = v + 1 ↔ match c with
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean:128]: Very oddly specific for a `simp` theorem I would say.

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: Filrb/Internal/Invariants/RBInv.lean (hunk 1 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean:21]: Done

File: Filrb/Internal/Invariants/RBInv.lean (hunk 2 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean:36]: Done

File: Filrb/Internal/Invariants/RBInv.lean (hunk 3 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: Done

File: Filrb/Internal/Invariants/RBInv.lean (hunk 4 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean]: simp is able to prove that now, so removed it

File: Filrb/Internal/Invariants/RBInv.lean (hunk 5 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean:128]: Removed it from the simp set /o\

File: Filrb/Internal/Invariants/RBInv.lean (hunk 2 above)
Comment (Daniel1854) [reply Filrb/Internal/Invariants/RBInv.lean:36]: Done
